US05112866
A N,N-dimethylformamide solution (DMF, 100ml) of 3,4-dichloroaniline (6.48 g, 40 mmol) and ethenesulfonyl fluoride (6.7 g, 57.9 mmol) was warmed to 110° C. for three hours. The cooled dark solution was diluted to 400 ml with water and the resulting dark oily precipate was decanted from the supernatant layer. This layer was extracted with ether (4×50 ml). The combined ether extracts were added to the oily precipitate and this dark solution was washed with brine and dried over MgSO4. The organic solution was evaporated to give the crude 2-[(3,4-dichlorophenyl)amino]ethenesulfonyl fluoride as a dark liquid in quantitative yield.

reactant | N,N-dimethylformamide | 100ml | CN(C=O)C | C3H7NO
reactant | 3,4-dichloroaniline | 40 mmol, 6.48 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | ethenesulfonyl fluoride | 57.9 mmol, 6.7 g | C(=C)S(=O)(=O)F | C2H3FO2S
solvent | water | O | H2O
product | 2-[(3,4-dichlorophenyl)amino]ethenesulfonyl fluoride | quantitative yield | ClC=1C=C(C=CC1Cl)NC=CS(=O)(=O)F | C8H6Cl2FNO2S
